US07678795B2
(1S,8R)-1,11,11-Trimethyl-5-(1-methyl-5-trifluoromethyl-1H-pyrazol-4-yl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
yellow oil. MS (ESI): 337.0 (MH+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione, [2-(1-Methyl-5-trifluoromethyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | [2-(1-Methyl-5-trifluoromethyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C=1C=NN(C1C(F)(F)F)C | C9H12F3N2O4P
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-1,11,11-Trimethyl-5-(1-methyl-5-trifluoromethyl-1H-pyrazol-4-yl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C[C@]12C3=NN=C(C=C3[C@H](CC1)C2(C)C)C=2C=NN(C2C(F)(F)F)C | C17H19F3N4
